US07501411B2
Step 1: 1-Isopropyl-4-(4-nitrophenyl)piperidine
4-(4-Nitrophenyl)piperidine (250 mg, 1.21 mmol), K2CO3 (170 mg, 1.21 mmol) and 2-iodopropane (240 μL, 2.4 mmol) are stirred in acetonitrile (3 mL) in a sealed tube at 120° C. for 45 min. The mixture is cooled and the solvent removed under reduced pressure. The residue is partitioned between DCM (20 mL) and water (5 mL), the layers are separated and the DCM is washed with water (5 mL) and brine (5 mL) and dried over MgSO4. Evaporation of the solvent affords the title compound (300 mg) which is used without further purification.

reactant | 4-(4-Nitrophenyl)piperidine | 1.21 mmol, 250 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1CCNCC1 | C11H14N2O2
reactant | K2CO3 | 1.21 mmol, 170 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | 2.4 mmol, 240 μL | IC(C)C | C3H7I
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-Isopropyl-4-(4-nitrophenyl)piperidine | 300 mg | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O2
